US03962249
cis-1-(3-Phenylpropyl)-2,3-dimethyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 1 from a mixture of cis-1-(3-phenylpropyl)-2,3-dimethylpiperazine [b.p. 126° - 128°C (2 mmHg), dipicrate, m.p. 227° - 228°C], 2-furoyl chloride and benzene.

reactant | cis-1-(3-phenylpropyl)-2,3-dimethylpiperazine | C1(=CC=CC=C1)CCCN1[C@H]([C@H](NCC1)C)C | C15H24N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cis-1-(3-Phenylpropyl)-2,3-dimethyl-4-(2-furoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1[C@H]([C@H](N(CC1)C(=O)C=1OC=CC1)C)C | InChI=1S/C20H26N2O2.ClH/c1-16-17(2)22(20(23)19-11-7-15-24-19)14-13-21(16)12-6-10-18-8-4-3-5-9-18;/h3-5,7-9,11,15-17H,6,10,12-14H2,1-2H3;1H/t16-,17+;/m0./s1
